US07022730B2
The compound Bis(4-chloroindol-3-yl)-(4-fluoro-2-trifluoromethylphenyl)methane was prepared following procedure A, starting from 4-chloro indole and 4-fluoro-2-(trifluromethyl) benzaldehyde. LC: Tr 2.52 min, MS: 477 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 4-fluoro-2-(trifluromethyl) benzaldehyde | FC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4F4O
product | Bis(4-chloroindol-3-yl)-(4-fluoro-2-trifluoromethylphenyl)methane | ClC1=C2C(=CNC2=CC=C1)C(C1=C(C=C(C=C1)F)C(F)(F)F)C1=CNC2=CC=CC(=C12)Cl | C24H14Cl2F4N2
